US06545108B1
A suspension of (2,5-Diphenyl-pyrrol-1-yl)-carbamic acid tert-butyl ester (3.7 g, 11.06 mmol) in anhydrous methanol (25 mL) was cooled to 0° C. in an ice water bath, then treated with conc. HCl (9.86 mL). The ice bath was removed, and the resulting suspension was heated to reflux in an oil bath for 1.5 h. Upon cooling to rt, a white solid precipitated, which was filtered, washed with water and dried in vacuo to afford 2,5-Diphenyl-pyrrol-1-ylamine (2.32 g, 90%): 1H NMR (CDCl3, chemical shifts in ppm relative to TMS): 3.64 (bs, 2H), 6.28 (s, 2H), 7.28-7.33 (m, 2H), 7.42 (t, 4H, J=8.0 Hz), 7.58 (d, 4H, J=8.0 Hz).

reactant | (2,5-Diphenyl-pyrrol-1-yl)-carbamic acid tert-butyl ester | 11.06 mmol, 3.7 g | C(C)(C)(C)OC(NN1C(=CC=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H22N2O2
reactant | HCl | 9.86 mL | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
product | 2,5-Diphenyl-pyrrol-1-ylamine | 2.32 g, 90% | C1(=CC=CC=C1)C=1N(C(=CC1)C1=CC=CC=C1)N | C16H14N2
